US08729263B2
A degassed reaction mixture of 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-3-amine (1 g, 3.73 mmol), bis(pinacolato) diboron (1.989 g, 7.83 mmol), Pd(dppf)Cl2 (0.273 g, 0.373 mmol), dppf (0.207 g, 0.373 mmol) and potassium acetate (2.56 g, 26.1 mmol) in 1,4-dioxane (10 mL) was heated at 88° C. overnight. After cooling to RT, the mixture was filtered through celite and washed with EtOAc. The filtrate was concentrated and the residue was purified by silica gel chromatography (EtOAc/heptane=10:90 to 50:50, then 50:50 to 60:40) to give 930 mg of 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-3-amine as a white solid.

reactant | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazol-3-amine | 3.73 mmol, 1 g | BrC1=C(C=C(C=C1)N1N=C(C=C1)N)OC | C10H10BrN3O
reactant | bis(pinacolato) diboron | 7.83 mmol, 1.989 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 26.1 mmol, 2.56 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.373 mmol, 0.273 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.373 mmol, 0.207 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazol-3-amine | 930 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1N=C(C=C1)N | C16H22BN3O3
